US08034812B2
A mixture of N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide (518 mg, 1.58 mmol), methyl 3-hydroxybenzoate (360 mg, 2.37 mmol), potassium carbonate (654 mg, 4.73 mmol) and N,N-dimethylformamide (4.0 mL) was stirred at 110° C. for 2 days. The solvent was evaporated under reduced pressure, ethyl acetate, tetrahydrofuran and water were added to the residue, and the aqueous layer was extracted three times with ethyl acetate/tetrahydrofuran. Combined organic layer was washed with saturated brine, dried over anhydrous sodium sulfate, and filtrated. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane=20/80→85/15) to give methyl 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoate (225 mg, 41%) as a white powder.

reactant | N-(6-iodoimidazo[1,2-b]pyridazin-2-yl)cyclopropanecarboxamide | 1.58 mmol, 518 mg | IC=1C=CC=2N(N1)C=C(N2)NC(=O)C2CC2 | C10H9IN4O
reactant | methyl 3-hydroxybenzoate | 2.37 mmol, 360 mg | OC=1C=C(C(=O)OC)C=CC1 | C8H8O3
reactant | potassium carbonate | 4.73 mmol, 654 mg | C([O-])([O-])=O.[K+].[K+]
solvent | N,N-dimethylformamide | 4.0 mL | CN(C=O)C | C3H7NO
product | methyl 3-({2-[(cyclopropylcarbonyl)amino]imidazo[1,2-b]pyridazin-6-yl}oxy)benzoate | 225 mg, 41% | C1(CC1)C(=O)NC=1N=C2N(N=C(C=C2)OC=2C=C(C(=O)OC)C=CC2)C1 | C18H16N4O4
